US05451596
To a solution of 1-triphenylmethylamino-(4-[benzoxazol-2-yl]benzyloxymethyl)cyclopentane (1.24 g; 2.20 mmol) of 1-triphenylmethylamino-(4-[benzoxazol -2-yl]benzyloxymethyl)cyclopentane in ethanol/CH2Cl2 is added ethanolic HCl until ph≅2. This is then stirred for 72 hrs., concentrated to about one-half the volume and the white precipitate which forms is filtered to obtain 1-amino-[4-(benzoxazol-2-yl)benzyloxymethyl]cyclopentane hydrochloride (m.p. >250° C.).

reactant | 1-triphenylmethylamino-(4-[benzoxazol-2-yl]benzyloxymethyl)cyclopentane | 2.20 mmol, 1.24 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1(CCCC1)COCC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C39H36N2O2
reactant | HCl | Cl | ClH
solvent | ethanol CH2Cl2 | C(C)O.C(Cl)Cl
product | 1-amino-[4-(benzoxazol-2-yl)benzyloxymethyl]cyclopentane hydrochloride | Cl.NC1(CCCC1)COCC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | InChI=1S/C20H22N2O2.ClH/c21-20(11-3-4-12-20)14-23-13-15-7-9-16(10-8-15)19-22-17-5-1-2-6-18(17)24-19;/h1-2,5-10H,3-4,11-14,21H2;1H
